US05998463
EXAMPLE 7 5-Acetyl-1-ethyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid [3-(3-fluorophenylcarbamoyl)-phenyl]-amide.
Prepared as in Example 1 from 1-ethyl-5-(2-methyl-[1,3]dioxolan-2-yl)-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid methyl ester and 3-amino-N-(3-fluoro-phenyl)-benzamide. 1H NMR (CDCl3) δ 1.25 (t, 3 H), 2.6 (s, 3 H), 3.85 (q, 2 H), 4.45 (s, 1 H), 6.85-8.05 (m, 11 H), 8.3 (s, 1 H), 9.65 (s, 1 H).

reactant | 1-ethyl-5-(2-methyl-[1,3]dioxolan-2-yl)-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid methyl ester | COC(=O)C1C(N(C2=CC=C(C=C12)C1(OCCO1)C)CC)=O | C16H19NO5
reactant | 3-amino-N-(3-fluoro-phenyl)-benzamide | NC=1C=C(C(=O)NC2=CC(=CC=C2)F)C=CC1 | C13H11FN2O
product | 5-Acetyl-1-ethyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid [3-(3-fluorophenylcarbamoyl)-phenyl]-amide | FC=1C=C(C=CC1)NC(=O)C=1C=C(C=CC1)NC(=O)C1C(N(C2=CC=C(C=C12)C(C)=O)CC)=O | C26H22FN3O4
